US04939265
Ethyl 3.3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenoate
A mixture of titanium tetrachloride (2 mL) and carbon tetrachloride (2 mL) was added to 15 mL of tetrahydrofuran at -78° C. under an argon atmosphere. The suspension was stirred at -78° C. for 30 minutes before 0.2 g of 4,4'-difluorobenzophenone was added. After stirring for an additional 30 minutes, a solution of 0.15 g of ethyl 1-methyl-5-tetrazolylacetate in 1 mL of dry pyridine was added dropwise. The dark brownish suspension was stirred at -78° C. for 15 minutes, then was allowed to warm to 0° C. forming a thick paste. The mixture was allowed to stand for 24 hours at ambient temperature before it was poured into water. The aqueous mixture was extracted with ethyl acetate to yield crude product. Analytical TLC eluted five times with 20g (v/v) ethyl acetate in hexanes showed the desired product at Rf =0.3. Pruification by preparative chromatography on two 20×20 cm2 0.25 mm TLC plates eluted twice with 20% (v/v) ethyl acetate in hexanes to give the title compound which was identical to the compound of Example 3.

reactant | carbon tetrachloride | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 4,4'-difluorobenzophenone | 0.2 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | ethyl 1-methyl-5-tetrazolylacetate | 0.15 g | CN1N=NN=C1CC(=O)OCC | C6H10N4O2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
catalyst | titanium tetrachloride | 2 mL | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | Ethyl 3.3-bis(4-fluorophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenoate | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C1=NN=NN1C)C1=CC=C(C=C1)F | C19H16F2N4O2
